US09212196B2
Ethyl 2-(4-formyl-2-(trifluoromethyl)phenoxy)acetate
The compound was prepared according to general procedure E with 4-hydroxy-3-(trifluoromethyl)benzaldehyde (1.3 mmol) in dry acetone (20 ml), anhydrous K2CO3 (1.7 mmol), and ethylbromoacetate (2.2 mmol) at reflux for 1 h. Ethanol was added and evaporated by azeotropic distillation with ethylbromoacetate. The crude product was purified by silica gel chromatography (eluent dichloromethane). 215 mg of purified compound were obtained (59% yield). 1H NMR (250 MHz, CDCl3): δ 1.30 (t, J=7.0 Hz, 3H), 4.28 (q, J=7.2 Hz, 2H), 4.85 (s, 2H), 7.02 (d, J=8.7 Hz, 1H), 8.04 (dd, J=8.9 and 2.0 Hz, 1H), 8.16 (d, J=2.0 Hz, 1H) 9.95 (s, 1H) 13C NMR (63 MHz, CDCl3): δ 13.8, 61.6, 65.5, 112.9, 120.5 (d, J=32.0 Hz), 122.8 (d, J=273 Hz), 128.9, 129.6, 135.0, 160.1, 167.2, 189.6 MS (ESI): m/z 573.1 [2M+Na]+.

reactant | 4-hydroxy-3-(trifluoromethyl)benzaldehyde | 1.3 mmol | OC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H5F3O2
reactant | K2CO3 | 1.7 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylbromoacetate | 2.2 mmol | C(C)OC(CBr)=O | C4H7BrO2
reactant | Ethanol | C(C)O | C2H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Ethyl 2-(4-formyl-2-(trifluoromethyl)phenoxy)acetate | 215 mg, 59% yield | C(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C(F)(F)F | C12H11F3O4
